2173-10-01 05:28:00 Physician Resident Progress Note
Chief Complaint: - Tox recs: If pt becomes serotenergic, give
   Ciproheptadine
   - Vigileo: adequately resuscitated.
   - [**Last Name (un) **] = benign
   - Follow up cultures
   - Unasyn added to Levo.
   - Legionella Ag sent
   - Insulin and Glucagon drips weaned - did have
   - Urine lytes obtained
   - Nutrition consult.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2173-9-30**] 08:20 AM
 MULTI LUMEN - START [**2173-9-30**] 08:49 AM
 ARTERIAL LINE - START [**2173-9-30**] 10:04 AM
 BRONCHOSCOPY - At [**2173-9-30**] 12:49 PM
 BLOOD CULTURED - At [**2173-9-30**] 12:49 PM
 BLOOD CULTURED - At [**2173-9-30**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-1**] 01:54 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-9-30**] 11:44 PM
   Dextrose 50% - [**2173-10-1**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-1**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 95 (57 - 95) bpm
   BP: 160/87(116) {92/48(62) - 160/87(116)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 11 (11 - 20)mmHg
   Total In:
                                                                  9,281 mL
                                                                    613 mL
   PO:
   TF:
                                                                    130 mL
                                                                    127 mL
   IVF:
                                                                  5,401 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                  1,497 mL
                                                                  1,170 mL
   Urine:
                                                                  1,287 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,784 mL
                                                                   -557 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 27 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.29/40/87.[**Numeric Identifier 274**]/19/-6
   Ve: 11.9 L/min
   PaO2 / FiO2: 126
   Physical Examination
   vitals: BP 110/48 HR 58 regular w/occasional PVC's, RR 15 100% FIO2
   100%   VC 100%/500/16/14   97kg, 70"
   General: sedated, intubated, not responding to verbal commands
   HEENT: NC AT pupils pinpoint but equal and reactive
   CV: Bradycardic, regular, no appreciable murmur
   Lungs: decreased breath sounds at right base, otherwise good air
   movement bilaterally
   Abdomen: slightly distended, BS+, no HSM, no apparent tenderness
   Ext: wdi, DP's palpable bilaterally
   Neuro: unable to assess [**12-26**] sedation
   Labs / Radiology
   219 K/uL
   10.7 g/dL
   58 mg/dL
   1.3 mg/dL
   19 mEq/L
   4.7 mEq/L
   27 mg/dL
   110 mEq/L
   138 mEq/L
   31.7 %
   6.5 K/uL
        [image002.jpg]
                             [**2173-9-30**]  08:55 AM
                             [**2173-9-30**]  10:22 AM
                             [**2173-9-30**]  02:58 PM
                             [**2173-9-30**]  04:01 PM
                             [**2173-9-30**]  09:28 PM
                             [**2173-9-30**]  09:51 PM
                             [**2173-10-1**]  01:08 AM
                             [**2173-10-1**]  03:01 AM
                             [**2173-10-1**]  04:06 AM
   WBC
   8.8
   6.7
   6.5
   Hct
   31.4
   32.7
   31.7
   Plt
   290
   234
   219
   Cr
   1.7
   1.5
   1.3
   TCO2
   21
   22
   21
   19
   20
   20
   Glucose
   90
   69
   58
   Other labs: Lactic Acid:0.9 mmol/L, Ca++:7.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   A/P: Mr. [**Known lastname 1901**] is a 55 yo M with PMH of alcholism, depression who
   presents with somnolence, bradycardia and hypotension after likely
   intoxication and ingestion as well as hypoxia [**12-26**] aspiration event.
   .
   #Hypotension/Bradycardia/Somnolence - Presentation with hypotension and
   bradycardia most likely [**12-26**] propranolol vs seroquel overdose, unclear
   if intentional or accidental at this time.   He appears to respond well
   to IV glucagon given in the ED making propranolol more likely however
   alpha antagonistic properties of seroquel could also be responsible.
   Per toxicology reccs would continue on glucagon gtt.  Other possible
   cause of current presentation could be sepsis, with pulmonary source
   most likely, although less likely than overdose at this time as no
   prodrome or infectious symptoms preceeding presentation according to
   his partner.
   -start glucagon gtt at 1-5mg/hour
   -can use calcium gluc as needed for hypotension while awaiting glucagon
   gtt
   -insulin sq vs gtt as needed for hyperglycemia
   -monitor QRS for prolongation
   -continue levophed as needed for MAP >65/adequate urine output
   -continue with IVF as also appears to be dehydrated
   -appreciate tox reccs
   -psych/social work/addiction consult when awake
   -infectious workup with UA/UCX, blood cx, sputum cx
   .
   #Bilateral pulmonary infiltrates/hyppoxia - likely [**12-26**] aspiration
   pneumonitis vs aspiration PNA.  He is currently intubated however
   hypoxic on arrival most likely [**12-26**] pneumonitis vs. transient right
   mainstem intubation.  Mucous plug also possible although minimal
   secretions on suctioning.
   -bronch today to eval for aspirated material and to send sputum
   cultures
   -treat with levofloxacin/unasyn to cover for aspiration
   -f/u cultures
   -hydrate to improve gas exchange/VQ matching
   -check urine legionella antigen
   .
   # Acidosis
 likely component of chronic respiratory acidosis with
   superimposed acute respiratory acidosis as well as acute metabolic
   acidosis [**12-26**] ARF.
   -continue to fluid resuscitate
   -monitor ABG and adjust vent settings as appropriate
   .
   #ETOH Abuse - Has been sober for years however recently started
   drinking per partner.
   -bananna bag
   -ranitidine for GI protection
   -addiction consult once awake
   -monitor for ETOH withdrawal -> on versed gtt but may require valium
   for longer acting coverage
   .
   #Acute Renal Failure - baseline creatinine 1-1.3 according to records.
   Most likely [**12-26**] prerenal given recent ETOH abuse, likely dehydrated.
   -monitor creatinine
   -IVF
   -avoid nephrotoxins/renally dose all meds
   -send urine lytes
   .
   #Anemia - baseline HCT 40 according to recent records, borderline
   macrocytic therefore anemia likely [**12-26**] nutritional deficiency [**12-26**] ETOH
   abuse.  No evidence of bleeding.
   -guaiac stools
   -check b12/folate levels
   -folate supplementation
   .
   #FEN - NPO for now, likely will start tube feeds, replete lytes prn
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2173-9-30**] 02:00 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-9-30**] 08:49 AM
   18 Gauge - [**2173-9-30**] 08:52 AM
   Arterial Line - [**2173-9-30**] 10:04 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-10-02 05:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Hypertensive, requiring multiple doses of valium and started on
   metoprolol; difficulty weaning from propofol
   - Fem line still in place d/t hypertension
   - needs repeat CXR to confirm ETT repositioning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-2**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2173-10-1**] 07:30 AM
   Hydralazine - [**2173-10-1**] 04:54 PM
   Heparin Sodium (Prophylaxis) - [**2173-10-2**] 12:11 AM
   Diazepam (Valium) - [**2173-10-2**] 03:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-2**] 05:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.1
C (96.9
   HR: 73 (73 - 118) bpm
   BP: 120/57(77) {120/57(77) - 194/105(140)} mmHg
   RR: 15 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 289 (285 - 334)mmHg
   Total In:
                                                                  3,958 mL
                                                                    919 mL
   PO:
   TF:
                                                                     98 mL
   IVF:
                                                                  3,430 mL
                                                                    799 mL
   Blood products:
   Total out:
                                                                  5,370 mL
                                                                  1,340 mL
   Urine:
                                                                  5,370 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,412 mL
                                                                   -419 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 559 (254 - 559) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 39
   PIP: 14 cmH2O
   Plateau: 28 cmH2O
   SpO2: 96%
   ABG: 7.43/41/86/28/2
   Ve: 11.1 L/min
   PaO2 / FiO2: 143
   Physical Examination
   General: sedated, intubated, not responding to verbal commands
   HEENT: NC AT pupils pinpoint but equal and reactive
   CV: Bradycardic, regular, no appreciable murmur
   Lungs: decreased breath sounds at right base, otherwise good air
   movement bilaterally
   Abdomen: slightly distended, BS+, no HSM, no apparent tenderness
   Ext: wdi, DP's palpable bilaterally
   Neuro: unable to assess [**12-26**] sedation
   Labs / Radiology
   190 K/uL
   10.3 g/dL
   120 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.4 mEq/L
   9 mg/dL
   104 mEq/L
   136 mEq/L
   30.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2173-9-30**]  09:51 PM
                             [**2173-10-1**]  01:08 AM
                             [**2173-10-1**]  03:01 AM
                             [**2173-10-1**]  04:06 AM
                             [**2173-10-1**]  05:39 AM
                             [**2173-10-1**]  06:59 AM
                             [**2173-10-1**]  12:49 PM
                             [**2173-10-1**]  03:51 PM
                             [**2173-10-2**]  02:18 AM
                             [**2173-10-2**]  02:26 AM
   WBC
   6.5
   6.2
   Hct
   31.7
   33.2
   30.0
   Plt
   219
   190
   Cr
   1.3
   1.1
   0.8
   TCO2
   19
   20
   20
   20
   21
   24
   28
   Glucose
   58
   83
   99
   98
   120
   Other labs: ALT / AST:32/46, Alk Phos / T Bili:64/0.5, Amylase /
   Lipase:163/274, Lactic Acid:0.9 mmol/L, LDH:252 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.2 mg/dL, PO4:1.6 mg/dL;  ABG: 7.43 / 41 / 86 / 28
   Resp viral screen negative; BAL: 2+ GPC, 2+ GPRs, 2+ budding yeast,
   coag+ Staph
   Assessment and Plan
   A/P: Mr. [**Known lastname 1901**] is a 55 yo M with PMH of alcholism, depression who
   presents with somnolence, bradycardia and hypotension after likely
   intoxication and ingestion as well as hypoxia [**12-26**] aspiration event.
   .
   # Hypertension/Tachycardia/Agitation:  likely due to ETOH withdrawal in
   the setting of long term ETOH abuse and inadequate sedation while
   intuabed.  Patient required large amounts of valium last night to treat
   agitation and withdrawal.  Unable to completely wean off propofol,
   though it was reduced.  Also started on low dose metoprolol given
   possibility of propranolol withdrawal complicating the picture
   - Goal is to wean off vent as soon as possible.
   - Transition off propofol and midazolam for Diazepam to treat agitation
   and withdrawal.  Will increase standing dose to 20-30 mg IV and will
   repeat as needed to achieve appropriate sedation.
   .
   # Bilateral pulmonary infiltrates/hyppoxia - likely [**12-26**] aspiration
   pneumonitis vs aspiration PNA.  He is currently intubated however
   hypoxic on arrival most likely [**12-26**] pneumonitis vs. transient right
   mainstem intubation.  Mucous plug also possible although minimal
   secretions on suctioning.
   - Bronchoscopy = benign for aspirated material and will f/u sputum
   cultures.
   - Treat with levofloxacin/unasyn to cover for aspiration
   - F/u cultures
   - Hydrate to improve gas exchange/VQ matching
   .
   #Pancreatitis: Many possible etiologies that include EtOH, hypotension
   induced ischemic insult, effects of drugs (i.e. propofol or
   propranolol).  Lipase trending downward.
   - Hold TF and make NPO.
   - Transition off Propofol.
   - Trend Lipase and serial abdominal exams.
   - Check triglycerides
   - Consider CT abdomen if symptoms or clinical status changes for the
   worse.
   .
   # Acidosis
 likely component of chronic respiratory acidosis with
   superimposed acute respiratory acidosis as well as acute metabolic
   acidosis [**12-26**] ARF.
   -continue to fluid resuscitate
   -monitor ABG and adjust vent settings as appropriate
   .
   #ETOH Abuse
s partner endorses that pt. has been sober for years,
   and only recently
fell off the wagon.
  The extent of his withdrawal,
   however, suggests that his use of alcohol is potentially much more
   extensive.
   - Bananna bag
   - Ranitidine for GI protection
   - Addiction consult + Social Work once awake
   - Monitor for ETOH withdrawal -> transitioning to Diazepam with strong
   front loading.
   .
   #Acute Renal Failure
 Resolved with IVF, likely pre-renal.
   - Monitor Creatinine
   - IVF
   - Avoid nephrotoxins/renally dose all meds
   .
   #Anemia - baseline HCT 40 according to recent records, borderline
   macrocytic therefore anemia likely [**12-26**] nutritional deficiency [**12-26**] ETOH
   abuse.  No evidence of bleeding.
   - Guaiac stools
   - Check b12/folate levels with appropriate supplementations.
   .
   #FEN - NPO for now, likely will start tube feeds as patient not near
   extubation today, replete lytes prn
   .
   # Access: Femoral line, PIVs
   .
   # Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-9-30**] 08:49 AM
   18 Gauge - [**2173-9-30**] 08:52 AM
   Arterial Line - [**2173-9-30**] 10:04 AM
   20 Gauge - [**2173-10-1**] 04:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 55 yo M EtOH, depression, HTN p/w altered
   mental status, hypotension, bradycardia, ARF and respiratory failure in
   setting of ETOH and overdose of propranolol / seroquel.
   Exam notable for Tm 100.8 BP 120/57-184/105 HR 73-118 RR 15-30  with
   sat 96% on PS 8/5  FiO2 0.6 ABG 7.43/41/86 (ACV 600 X 15) TBB +7.8L.
   Agitated M, PERRL. CTA B. RR, tachy 2/6SM. Abd distended but soft +BS.
   Trace edema.
   Labs notable for WBC 6.2 K, HCT 30, K+ 3.4, Cr 0.8 (1.3), lipase 274
   (1000).
   CXR--ET ok, lung fields without focal process
   Agree with plan to continue supportive care. MS remains poor and is
   easily agitated largely from etoh withdrawal which is limiting ability
   to wean and extubate at this time (remains on propofol gtt with high
   valium needs/agitation). Continue PSW.  Treat ETOH withdrawal with
   valium and versed. Continue B12, thimine, folate.   Continue broad
   antibiotic coverage with levoflox and unasyn x 48 hours
would taper
   once final cx/speciation available. Chemical pancreatitis improving,
   likely [**12-26**] etoh. Will wean propofol  and check
   triglycerides. Continue NPO.  Will hold off on imaging for now and
   start bowel regimen.  ARF has improved. SW eval and psych c/s post
   extubation. Will attempt picc line and then d/c femoral CVL.  If unable
   to get picc will continue fem line for now as high risk for neck line
   given agitation/inability to cooperate.  Remainder of plan as outlined
   above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2173-10-2**] 07:36 PM ------

2173-10-03 05:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Recieved a lot of Valium yesterday, upwards of 500mg IV in 24 hours and
   there was a question of benzodiazepine overdose.  Valium was stopped.
   Pt was getting Versed and started Fentanyl to wean Propofol given high
   triglycerides
   Propofol weaned off
   During turning, pt received Fentanyl boluses, began to have prolonged
   expiratory phase breathing with large tidal volumes and low rates,
   ?derecruitment vs oversedation, not able to tolerate AC as pt was
   breath-stacking, not able to be put on PS because was breathing at a
   rate of [**3-31**] and large tidal volumes, becoming hypercarbic.  Pt was put
   on pressure control ventilation at a set rate of 14.
   At 2am all sedation turned off, by 4am Versed titrated up and small
   amounts of Fentanyl given.  Got Zyprexa X 1 this morning for agitation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2173-10-2**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-3**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2173-10-2**] 07:58 PM
   Heparin Sodium (Prophylaxis) - [**2173-10-3**] 12:02 AM
   Furosemide (Lasix) - [**2173-10-3**] 12:25 AM
   Midazolam (Versed) - [**2173-10-3**] 03:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-3**] 05:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 88 (62 - 91) bpm
   BP: 149/68(91) {126/58(76) - 202/100(133)} mmHg
   RR: 15 (10 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 32 (15 - 287)mmHg
   Total In:
                                                                  4,002 mL
                                                                    660 mL
   PO:
   TF:
   IVF:
                                                                  3,602 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  3,373 mL
                                                                    225 mL
   Urine:
                                                                  3,373 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    629 mL
                                                                    435 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 860 (478 - 1,000) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.35/54/60/30/2
   Ve: 9 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General: sedated, intubated, not responding to verbal commands
   HEENT: NC AT pupils pinpoint but equal and reactive
   CV: Bradycardic, regular, no appreciable murmur
   Lungs: decreased breath sounds at right base, otherwise good air
   movement bilaterally
   Abdomen: slightly distended, BS+, no HSM, no apparent tenderness
   Ext: wdi, DP's palpable bilaterally
   Neuro: unable to assess [**12-26**] sedation
   Labs / Radiology
   212 K/uL
   10.5 g/dL
   93 mg/dL
   1.0 mg/dL
   30 mEq/L
   4.4 mEq/L
   8 mg/dL
   105 mEq/L
   141 mEq/L
   32.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2173-10-1**]  06:59 AM
                             [**2173-10-1**]  12:49 PM
                             [**2173-10-1**]  03:51 PM
                             [**2173-10-2**]  02:18 AM
                             [**2173-10-2**]  02:26 AM
                             [**2173-10-2**]  02:17 PM
                             [**2173-10-2**]  11:24 PM
                             [**2173-10-3**]  01:19 AM
                             [**2173-10-3**]  02:30 AM
                             [**2173-10-3**]  02:47 AM
   WBC
   6.2
   8.3
   Hct
   33.2
   30.0
   32.0
   Plt
   190
   212
   Cr
   1.1
   0.8
   1.0
   TCO2
   21
   24
   28
   29
   30
   30
   31
   Glucose
   83
   99
   98
   120
   93
   Other labs: ALT / AST:31/39, Alk Phos / T Bili:66/0.8, Amylase /
   Lipase:163/147, Lactic Acid:0.9 mmol/L, LDH:282 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   A/P: Mr. [**Known lastname 1901**] is a 55 yo M with PMH of alcholism, depression who
   presents with somnolence, bradycardia and hypotension after likely
   intoxication and ingestion as well as hypoxia [**12-26**] aspiration event.
   .
   # Hypertension/Tachycardia/Agitation:  possibly due to EtOH withdrawal,
   benzo withdrawal, other toxic ingestions, delirium from medical
   illness.  Pt not able to tolerate Propofol due to pancreatitis.
   Currently being managed with Midazolam and Fentanyl.
   - Goal is to wean off vent as soon as possible.
   - continue Midazolam and Fentanyl for sedation
   .
   # Bilateral pulmonary infiltrates/hyppoxia - likely [**12-26**] aspiration
   pneumonitis vs aspiration PNA.  Mucous plug also possible although
   minimal secretions on suctioning.   Bronchoscopy benign for aspirated
   material and will f/u sputum cultures.  Sputum from BAL growing coag +
   staph, unclear if significant.
   - Continue to treat with levofloxacin/unasyn to cover for aspiration
   - F/u cultures
   .
   #Pancreatitis: Lipase trending downward.  Possibly due to Propofol with
   increased triglycerides.  Trending down now that Propofol is decreased
   and discontinued however unclear relationship.  Abdomen somewhat firm
   but not tense.
   - continue to hold Propofol.
   - continue to trend lipase
   - will restart tube feeds slowly
   .
   #ETOH Abuse
s partner endorses that pt. has been sober for years,
   and only recently
fell off the wagon.
  The extent of his withdrawal,
   however, suggests that his use of alcohol is potentially much more
   extensive.
   - Ranitidine for GI protection
   - Addiction consult + Social Work once awake
   - Monitor for ETOH withdrawal, pt got large doses of IV Diazepam
   .
   #Acute Renal Failure
 Resolved with IVF, likely pre-renal.
   - Monitor Creatinine
   - Avoid nephrotoxins/renally dose all meds
   .
   #Anemia - baseline HCT 40 according to recent records, borderline
   macrocytic therefore anemia likely [**12-26**] nutritional deficiency [**12-26**] ETOH
   abuse.  No evidence of bleeding.
   - continue to trend
   .
   #FEN
 start tube feeds today slowly given recent pancreatitis, replete
   lytes prn
   .
   # Access: Femoral line, PIVs
   .
   # Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-9-30**] 08:49 AM
   18 Gauge - [**2173-9-30**] 08:52 AM
   Arterial Line - [**2173-9-30**] 10:04 AM
   20 Gauge - [**2173-10-1**] 04:29 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 55 yo M EtOH, depression, HTN p/w altered
   mental status, hypotension, bradycardia, ARF and respiratory failure in
   setting of ETOH and overdose of propranolol / seroquel. As
   triglycerides elevated attempted  to wean propofol to off and
   converting to fentanyl/versed--> RR slowed, dysycnchronous with vent
   with prolonged exp phase and breath stacking
 changed to PCV. Concerned
   also for valium/benzo intoxication
 d/c'd valium.
   Exam notable for Tm 99 BP 126/58-202/100  HR 88  RR 14 with sat 96% on
   PCV 18/8 60 14  FiO2 0.6 ABG 7.38/50/81   +629 mL. Sedated M, less
   agitated, R conjunctival hem, PERRL. CTA B with prolonged exp phase RR,
   tachy 2/6SM. Abd distended firm but soft, nt, +BS. Trace edema.
   Labs notable for triglycerides 434, WBC 8.3 K, HCT 32, Cr 1.0 lipase
   147 (274<-1000). ast 39/ alt 31
   Micro:  sputum speciation pending, urine/bl ngtd
   CXR--ET ok, lung fields without focal process, no sig change
   Agree with plan to continue supportive care. MS remains poor and is
   easily agitated largely from etoh withdrawal as well as concern for
   benzo intoxication given very high valium doses over prior few days.
   These issues are largely holding up ability to wean/extubate. Agitation
   now better controlled on current doses of fentanyl and versed.  Given
   high triglycerides
propofol is now off. Will consult psych service for
   additional suggestions. Continue B12, thiamine, folate.  Tolerated
   change to PS this am and now overbreathing vent
 will switch back to
   PSV and follow abgs/sats.  Continue broad antibiotic coverage with
   levoflox and unasyn
will taper once final cx data and speciation
   available. Chemical pancreatitis resolved, likely [**12-26**] etoh. Will
   start TFs and decrease then d/c IVF.  Will follow A/L..  SW eval post
   extubation. Will attempt picc line and then d/c femoral
   CVL.   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2173-10-3**] 03:59 PM ------

2173-10-04 05:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had an episode of acute agitation; sedation was subsequently
   increased.
   - Psych: Cont. CIWA scale along with zyprexa 5mg q4hrs, PRN
                 Consider imaging brain, or EEG.
   - PICC placed, CVL/fem line pulled, new A line placed over a wire.
   - Sputum culture speciated to MSSA: pan-sensative; legionella negative
   and Flu negative.
   - ABG: 7.41/50/73/33
   - Had an episode of acute agitation this morning requiring large
   amounts of sedation.
 PICC LINE - START [**2173-10-3**] 10:00 AM
 MULTI LUMEN - STOP [**2173-10-3**] 04:20 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2173-10-2**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-4**] 02:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2173-10-3**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2173-10-4**] 12:07 AM
   Midazolam (Versed) - [**2173-10-4**] 03:45 AM
   Fentanyl - [**2173-10-4**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-4**] 05:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 106 (82 - 133) bpm
   BP: 153/68(93) {125/65(84) - 209/119(141)} mmHg
   RR: 16 (8 - 32) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,156 mL
                                                                    373 mL
   PO:
             TF:
                                                                    243 mL
                                                                    156 mL
   IVF:
                                                                  1,623 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    440 mL
   Urine:
                                                                  1,310 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    846 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 748 (652 - 804) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 14 cmH2O
   SpO2: 94%
   ABG: 7.41/50/73.[**Numeric Identifier **]/30/5
   Ve: 7.9 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General: sedated, intubated, not responding to verbal commands
   HEENT: NC AT pupils pinpoint but equal and reactive
   CV: Bradycardic, regular, no appreciable murmur
   Lungs: decreased breath sounds at right base, otherwise good air
   movement bilaterally
   Abdomen: slightly distended, BS+, no HSM, no apparent tenderness
   Ext: wdi, DP's palpable bilaterally
   Neuro: unable to assess [**12-26**] sedation
   Labs / Radiology
   202 K/uL
   9.7 g/dL
   98 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.7 mEq/L
   13 mg/dL
   106 mEq/L
   143 mEq/L
   28.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2173-10-2**]  02:17 PM
                             [**2173-10-2**]  11:24 PM
                             [**2173-10-3**]  01:19 AM
                             [**2173-10-3**]  02:30 AM
                             [**2173-10-3**]  02:47 AM
                             [**2173-10-3**]  06:25 AM
                             [**2173-10-3**]  09:50 AM
                             [**2173-10-3**]  04:54 PM
                            [**2173-10-4**]  12:39 AM
                            [**2173-10-4**]  04:07 AM
   WBC
   8.3
   7.0
   Hct
   32.0
   28.7
   Plt
   212
   202
   Cr
   1.0
   0.9
   TCO2
   29
   30
   30
   31
   31
   30
   30
   33
   Glucose
   93
   98
   Other labs: Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Viral screen negative; BAL
 MSSA,
   Rt PICC at SVC/cavoatrial jxn
   Assessment and Plan
   A/P: Mr. [**Known lastname 1901**] is a 55 yo M with PMH of alcholism, depression who
   presents with somnolence, bradycardia and hypotension after likely
   intoxication and ingestion as well as hypoxia [**12-26**] aspiration event.
   .
   # Hypertension/Tachycardia/Agitation:  possibly due to EtOH withdrawal,
   benzo withdrawal, other toxic ingestions, delirium from medical
   illness.  However, the patient has received a large amount of valium
   over the weekend and may now be suffering from benzo toxicity with a
   paradoxical response.  Pt not able to tolerate Propofol due to
   pancreatitis.  Currently being managed with Midazolam and Fentanyl.
   Appreciate recs from psychiatry
   - Goal is to wean off vent as soon as possible.
   - continue Midazolam and Fentanyl for sedation, trying to wean off
   midazolam as possible
   - ABG and EKG with next hypertensive episode to rule out respiratory &
   cardiac causes
   - Haldol 5 mg [**Hospital1 **] with 2.5 mg prn for agitation
   - f/u psychiatry recs
   .
   # Bilateral pulmonary infiltrates/hyppoxia - likely [**12-26**] aspiration
   pneumonitis vs aspiration PNA.  Mucous plug also possible although
   minimal secretions on suctioning.   Bronchoscopy benign for aspirated
   material and will f/u sputum cultures.  Sputum from BAL growing coag +
   staph, unclear if significant.
   - Continue to treat with unasyn to cover for aspiration/ coag + staph
   - stop levofloxacin ([**10-4**])
   - F/u cultures
   .
   #Pancreatitis: Lipase continues to trend downward.  Possibly due to
   EtOH or Propofol with increased triglycerides.  Trending down now that
   Propofol is decreased and discontinued however unclear relationship.
   Abdomen somewhat firm but not tense.  Tolerating tube feeds
   - continue to hold Propofol.
   - continue to trend lipase
   - Cont. to advance tube feeds slowly
   .
   #ETOH Abuse
s partner endorses that pt. has been sober for years,
   and only recently
fell off the wagon.
  The extent of his withdrawal,
   however, suggests that his use of alcohol is potentially much more
   extensive.
   - Ranitidine for GI protection
   - Addiction consult + Social Work once awake
   - Monitor for ETOH withdrawal, pt got large doses of IV Diazepam
   - psych needs to eval pt. once he is awake and clear
   .
   #Acute Renal Failure
 Resolved with IVF, likely pre-renal.
   - Monitor Creatinine
   - Avoid nephrotoxins/renally dose all meds
   .
   #Anemia - baseline HCT 40 according to recent records, borderline
   macrocytic therefore anemia likely [**12-26**] nutritional deficiency [**12-26**] ETOH
   abuse.  No evidence of bleeding.
   - continue to trend
   .
   #FEN
 advance tube feeds today slowly given recent pancreatitis,
   replete lytes prn, thiamine daily
   .
   # Access - PIVs, PICC (placed [**10-3**])
   .
   # PPX
 bowel regimen, heparin sc, ranitidine, VAP bundle
   .
   # Full Code
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2173-10-3**] 09:40 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2173-9-30**] 10:04 AM
   PICC Line - [**2173-10-3**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-10-04 09:02:00 Physician Attending Progress Note
Chief Complaint: Polysubstance Ingestion
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with continued high requirements for Valium (500mg in 24 hours)
   and change to Versed as needed.
   PICC line placed
   Sputum with MSSA, Legionella negative
   24 Hour Events:
 PICC LINE - START [**2173-10-3**] 10:00 AM
 MULTI LUMEN - STOP [**2173-10-3**] 04:20 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2173-10-2**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-4**] 08:16 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2173-10-4**] 06:38 AM
   Fentanyl - [**2173-10-4**] 06:44 AM
   Heparin Sodium (Prophylaxis) - [**2173-10-4**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 100.8
   Cardiovascular: Tachycardia
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2173-10-4**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.4
   HR: 84 (82 - 133) bpm
   BP: 153/78(101) {125/68(90) - 209/119(141)} mmHg
   RR: 10 (8 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,156 mL
                                                                    807 mL
   PO:
             TF:
                                                                    243 mL
                                                                    287 mL
   IVF:
                                                                  1,623 mL
                                                                    400 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    770 mL
   Urine:
                                                                  1,310 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    846 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 880 (652 - 880) mL
   PS : 8 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: 7.41/50/73.[**Numeric Identifier **]/30/5
   Ve: 7.2 L/min
   PaO2 / FiO2: 146
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   -Patient opens eyes to voice, moves all extremities and has brisk
   bilateral reflexes in LE.  The tracks and has conjugate gaze.
   Significant right sided sub-conjunctival hemorrhage
   Lungs
Diffuse ronchi, no wheezes, good Vt with resp effort
   Heart--Distant
   Skin:  Not assessed
   Labs / Radiology
   9.7 g/dL
   202 K/uL
   98 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.7 mEq/L
   13 mg/dL
   106 mEq/L
   143 mEq/L
   28.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2173-10-2**]  02:17 PM
                             [**2173-10-2**]  11:24 PM
                             [**2173-10-3**]  01:19 AM
                             [**2173-10-3**]  02:30 AM
                             [**2173-10-3**]  02:47 AM
                             [**2173-10-3**]  06:25 AM
                             [**2173-10-3**]  09:50 AM
                             [**2173-10-3**]  04:54 PM
                            [**2173-10-4**]  12:39 AM
                            [**2173-10-4**]  04:07 AM
   WBC
   8.3
   7.0
   Hct
   32.0
   28.7
   Plt
   212
   202
   Cr
   1.0
   0.9
   TCO2
   29
   30
   30
   31
   31
   30
   30
   33
   Glucose
   93
   98
   Other labs: ALT / AST:31/39, Alk Phos / T Bili:66/0.8, Amylase /
   Lipase:163/147, Lactic Acid:0.9 mmol/L, LDH:282 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: AG-7
   7.41/50/73--ABG
   Imaging: Head CT--admission--unremarkable
   Assessment and Plan
   55 yo male with history of EtOH abuse admit with polysubstance
   ingestion including Seroquel and Propranolol.  He has had continued
   high requirements for benzo dosing and with persistent respiratory
   failure and with paroxysms of tachycardia/tachypnea with respiratory
   distress and episodes recurrent.
 PANCREATITIS, ACUTE-
   -Diminished and abdominal exam re-assuring
   -WBC coming down
   -Tube feeds started
   -Amylase/Lipase continuing
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
 .H/O ACIDOSIS, MIXED-
   -Will move to stabilize metabolic alkalosis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   -Levofloxacin to D/C and will continue with Unasyn for Rx of MSSA
   -Continued high secretion volumes and altered mental status
   -CXR in am and will continue with PSV mode
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
This
   may most likely represent a paradoxical reaction to high doses of
   benzos
   -Versed 10mg/hr
wean
   -Zyprexa-
   -Fentanyl bolus 50-200ug to the point of failure before move to
   alternative [**Doctor Last Name 23**]
   -EEG if failure of current intervention changes seen
   -CT Head to re-evaluate for persistent worsening
   -Thiamine Repletion ordered
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2173-10-3**] 09:40 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2173-9-30**] 10:04 AM
   PICC Line - [**2173-10-3**] 10:00 AM
   Prophylaxis:
   DVT: S/Q heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2173-10-05 05:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt written for standing Haldol per pysch recommendations and weaned off
   Versed
   EKGs checked and show no QTC prolongation
   Levofloxacin stopped
 EKG - At [**2173-10-4**] 09:45 AM
 EKG - At [**2173-10-4**] 01:00 PM
 EKG - At [**2173-10-5**] 12:27 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2173-10-2**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-5**] 02:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fentanyl - [**2173-10-4**] 06:44 AM
   Furosemide (Lasix) - [**2173-10-4**] 08:00 PM
   Hydralazine - [**2173-10-4**] 08:00 PM
   Midazolam (Versed) - [**2173-10-4**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2173-10-5**] 12:25 AM
   Haloperidol (Haldol) - [**2173-10-5**] 12:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-5**] 05:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 92 (71 - 126) bpm
   BP: 151/80(100) {95/77(88) - 218/113(148)} mmHg
   RR: 7 (7 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,120 mL
                                                                    907 mL
   PO:
             TF:
                                                                    990 mL
                                                                    265 mL
   IVF:
                                                                    800 mL
                                                                    202 mL
   Blood products:
   Total out:
                                                                  3,276 mL
                                                                    460 mL
   Urine:
                                                                  3,266 mL
                                                                    460 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,156 mL
                                                                    447 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 523 (523 - 880) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.38/56/99.[**Numeric Identifier 8**]/33/5
   Ve: 7.9 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General: sedated, intubated, not responding to verbal commands
   HEENT: NC AT pupils pinpoint but equal and reactive
   CV: Bradycardic, regular, no appreciable murmur
   Lungs: decreased breath sounds at right base, otherwise good air
   movement bilaterally
   Abdomen: slightly distended, BS+, no HSM, no apparent tenderness
   Ext: wdi, DP's palpable bilaterally
   Neuro: unable to assess [**12-26**] sedation
   Labs / Radiology
   218 K/uL
   8.8 g/dL
   103 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.8 mEq/L
   18 mg/dL
   103 mEq/L
   143 mEq/L
   25.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2173-10-3**]  02:47 AM
                             [**2173-10-3**]  06:25 AM
                             [**2173-10-3**]  09:50 AM
                             [**2173-10-3**]  04:54 PM
                            [**2173-10-4**]  12:39 AM
                            [**2173-10-4**]  04:07 AM
                            [**2173-10-4**]  09:36 AM
                            [**2173-10-5**]  12:40 AM
                            [**2173-10-5**]  03:56 AM
                            [**2173-10-5**]  04:11 AM
   WBC
   7.0
   6.1
   Hct
   28.7
   25.8
   Plt
   202
   218
   Cr
   0.9
   0.9
   TCO2
   31
   31
   30
   30
   33
   33
   35
   34
   Glucose
   98
   103
   Other labs: PT / PTT / INR:12.7/29.3/1.1, ALT / AST:31/39, Alk Phos / T
   Bili:79/0.8, Amylase / Lipase:56/100, Lactic Acid:0.9 mmol/L, LDH:282
   IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment/Plan
   A/P: Mr. [**Known lastname 1901**] is a 55 yo M with PMH of alcholism, depression who
   presents with somnolence, bradycardia and hypotension after likely
   intoxication and ingestion as well as hypoxia [**12-26**] aspiration event.
   .
   # Hypertension/Tachycardia/Agitation:  possibly due to EtOH withdrawal,
   benzo withdrawal, other toxic ingestions, delirium from medical
   illness.  However, the patient has received a large amount of valium
   over the weekend and may now be suffering from benzo toxicity with a
   paradoxical response.  Pt not able to tolerate Propofol due to
   pancreatitis.  Currently being managed with standing Haldol and seems
   to be responsive to this.
   - Goal is to wean off vent.
   - continue Haldol and Fentanyl for sedation, wean as possible
   - changed Haldol to 2.5mg PO q 6hours
   - f/u psychiatry recs
   .
   # Bilateral pulmonary infiltrates/hyppoxia - likely [**12-26**] aspiration
   pneumonitis vs aspiration PNA.  Mucous plug also possible although
   minimal secretions on suctioning.   Bronchoscopy benign for aspirated
   material, growing MSSA.
   - Continue to treat with unasyn to cover for aspiration/ coag + staph
   - F/u cultures
   .
   #Pancreatitis: Lipase continues to trend downward.  Possibly due to
   EtOH or Propofol with increased triglycerides.  Trending down now that
   Propofol is decreased and discontinued however unclear relationship.
   Abdomen somewhat firm but not tense.  Tolerating tube feeds.
   - continue to hold Propofol.
   - continue to trend lipase
   - Cont. tube feeds slowly
   .
   #ETOH Abuse
s partner endorses that pt. has been sober for years,
   and only recently
fell off the wagon.
  The extent of his withdrawal,
   however, suggests that his use of alcohol is potentially much more
   extensive.
   - Ranitidine for GI protection
   - Addiction consult + Social Work once awake
   - Monitor for ETOH withdrawal
   - psych needs to eval pt. once he is awake and clear
   .
   #Acute Renal Failure
 Resolved with IVF, likely pre-renal.
   - Monitor Creatinine
   - Avoid nephrotoxins/renally dose all meds
   .
   #Anemia - baseline HCT 40 according to recent records, borderline
   macrocytic therefore anemia likely [**12-26**] nutritional deficiency [**12-26**] ETOH
   abuse.  No evidence of bleeding.
   - continue to trend
   .
   #FEN
 advance tube feeds today slowly given recent pancreatitis,
   replete lytes prn, thiamine daily
   .
   # Access - PIVs, PICC (placed [**10-3**])
   .
   # PPX
 bowel regimen, heparin sc, ranitidine, VAP bundle
   .
   # Full Code
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2173-10-5**] 04:03 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2173-9-30**] 10:04 AM
   PICC Line - [**2173-10-3**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-10-05 11:58:00 Physician Attending Progress Note
Chief Complaint: Intoxication
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2173-10-4**] 09:45 AM
 EKG - At [**2173-10-4**] 01:00 PM
 EKG - At [**2173-10-5**] 12:27 AM
   Haldol used for sedation in lieu of escalating doses of benzodiazepines
   Levofloxacin D/C'd
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-5**] 08:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2173-10-4**] 08:00 PM
   Hydralazine - [**2173-10-4**] 08:00 PM
   Midazolam (Versed) - [**2173-10-4**] 09:30 PM
   Haloperidol (Haldol) - [**2173-10-5**] 12:52 AM
   Heparin Sodium (Prophylaxis) - [**2173-10-5**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2173-10-5**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.8
C (98.3
   HR: 77 (71 - 126) bpm
   BP: 143/79(97) {119/63(78) - 218/113(148)} mmHg
   RR: 6 (6 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,120 mL
                                                                  1,497 mL
   PO:
             TF:
                                                                    990 mL
                                                                    586 mL
   IVF:
                                                                    800 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                  3,276 mL
                                                                    785 mL
   Urine:
                                                                  3,266 mL
                                                                    785 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,156 mL
                                                                    712 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 900 (523 - 1,140) mL
   PS : 8 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.38/56/99.[**Numeric Identifier 8**]/33/5
   Ve: 9.4 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: Worsening of subconjunctival bleeding with active
   oozing during hypertensive episode
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
Diffiuse and bilateral crackles seen.
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
Patient with persistent rightward gaze,  he had brisk LLE
   reflex but limited RLE response but still at 1-2+.  He fails to follow
   commands but will move all extremities.  Pupils do react bilaterally
   but are narrowed
   Labs / Radiology
   8.8 g/dL
   218 K/uL
   103 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.8 mEq/L
   18 mg/dL
   103 mEq/L
   143 mEq/L
   25.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2173-10-3**]  02:47 AM
                             [**2173-10-3**]  06:25 AM
                             [**2173-10-3**]  09:50 AM
                             [**2173-10-3**]  04:54 PM
                            [**2173-10-4**]  12:39 AM
                            [**2173-10-4**]  04:07 AM
                            [**2173-10-4**]  09:36 AM
                            [**2173-10-5**]  12:40 AM
                            [**2173-10-5**]  03:56 AM
                            [**2173-10-5**]  04:11 AM
   WBC
   7.0
   6.1
   Hct
   28.7
   25.8
   Plt
   202
   218
   Cr
   0.9
   0.9
   TCO2
   31
   31
   30
   30
   33
   33
   35
   34
   Glucose
   98
   103
   Other labs: PT / PTT / INR:12.7/29.3/1.1, ALT / AST:31/39, Alk Phos / T
   Bili:79/0.8, Amylase / Lipase:56/100, Lactic Acid:0.9 mmol/L, LDH:282
   IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   55 yo male with h/o EtOH abuse and admit with intoxication and concern
   for polysubstance ingestion with altered mental status did require
   intubation.  He has had recurrent agitation which has not been
   responsive to benzos and with change to antipsychotic dosing and
   narcotics has had improvement in agitation/delirium.
   Respiratory Failure-
   -Limited capacity to follow commands
   -Diruesis today with goal of [**12-27**] liters negative today
   -Unsayn
   -F/U PM lytes
   Agitation/Alteration of Awareness Transient-
   -Change Haldol to 2.5mg q 6 hours
   -Follow QTc and will monitor dosing as needed based upon any change in
   intervals
   -Given concerning unilateral findings on neuro exam and absence of
   clear resolution with benzo discontinuation
   -Head CT completed and need to eval for CNS insult
   -Exam may be dynamic in the setting of withdrawl of sedating
   medications
   -Repeat neuro exam
   Subconunctival Hemorrhage-
   Optho to eval with concern for bleeding from site and difficult to
   evaluate vision.
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPERTENSION, BENIGN
 .H/O ACIDOSIS, MIXED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2173-10-5**] 04:03 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2173-9-30**] 10:04 AM
   PICC Line - [**2173-10-3**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2173-10-06 06:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2173-10-6**] 04:19 AM
   Haldol changed to 2.5mg PO q6H, occasional apnea
   Got 10mg IV Lasix in AM, 20mg IV Lasix in PM, 40mg IV Lasix this
   morning
   Psych note in [**Name (NI) 179**]
   Pt pulled out A-line this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-6**] 02:15 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-10-6**] 12:30 AM
   Haloperidol (Haldol) - [**2173-10-6**] 03:16 AM
   Furosemide (Lasix) - [**2173-10-6**] 04:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-6**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 99 (68 - 115) bpm
   BP: 134/72(87) {134/71(85) - 140/72(87)} mmHg
   RR: 19 (5 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  2,495 mL
                                                                    707 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    313 mL
   IVF:
                                                                    696 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                  2,407 mL
                                                                  1,430 mL
   Urine:
                                                                  2,407 mL
                                                                  1,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     88 mL
                                                                   -723 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 689 (689 - 1,240) mL
   PS : 8 cmH2O
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 12
   RSBI Deferred: Agitated
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ///36/
   Ve: 8.2 L/min
   Physical Examination
   General: sedated, intubated, not responding to verbal commands
   HEENT: NC AT pupils pinpoint but equal and reactive
   CV: Bradycardic, regular, no appreciable murmur
   Lungs: decreased breath sounds at right base, otherwise good air
   movement bilaterally
   Abdomen: slightly distended, BS+, no HSM, no apparent tenderness
   Ext: wdi, DP's palpable bilaterally
   Neuro: unable to assess [**12-26**] sedation
   Labs / Radiology
   225 K/uL
   8.6 g/dL
   101 mg/dL
   1.0 mg/dL
   36 mEq/L
   4.0 mEq/L
   27 mg/dL
   102 mEq/L
   146 mEq/L
   26.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2173-10-3**]  09:50 AM
                             [**2173-10-3**]  04:54 PM
                            [**2173-10-4**]  12:39 AM
                            [**2173-10-4**]  04:07 AM
                            [**2173-10-4**]  09:36 AM
                            [**2173-10-5**]  12:40 AM
                            [**2173-10-5**]  03:56 AM
                            [**2173-10-5**]  04:11 AM
                            [**2173-10-5**]  05:08 PM
                            [**2173-10-6**]  03:47 AM
   WBC
   7.0
   6.1
   7.7
   Hct
   28.7
   25.8
   26.5
   26.2
   Plt
   [**Telephone/Fax (3) 2080**]
   Cr
   0.9
   0.9
   1.0
   1.0
   TCO2
   30
   30
   33
   33
   35
   34
   Glucose
   98
   103
   116
   101
   Other labs: PT / PTT / INR:12.7/29.3/1.1, ALT / AST:31/39, Alk Phos / T
   Bili:79/0.8, Amylase / Lipase:56/100, Lactic Acid:0.9 mmol/L, LDH:282
   IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   A/P: Mr. [**Known lastname 1901**] is a 55 yo M with PMH of alcholism, depression who
   presents with somnolence, bradycardia and hypotension after likely
   intoxication and ingestion as well as hypoxia [**12-26**] aspiration event.
   .
   # Hypertension/Tachycardia/Agitation:  possibly due to EtOH withdrawal,
   benzo withdrawal, other toxic ingestions, delirium from medical
   illness.  However, the patient has received a large amount of valium
   over the weekend and may now be suffering from benzo toxicity with a
   paradoxical response.  Pt not able to tolerate Propofol due to
   pancreatitis.  Currently being managed with standing Haldol and seems
   to be responsive to this.
   - Goal is to wean off vent.
   - continue Haldol and Fentanyl for sedation, wean as possible
   - changed Haldol to 2.5mg PO q 6hours
   - f/u psychiatry recs
   .
   # Bilateral pulmonary infiltrates/hyppoxia - likely [**12-26**] aspiration
   pneumonitis vs aspiration PNA.  Mucous plug also possible although
   minimal secretions on suctioning.   Bronchoscopy benign for aspirated
   material, growing MSSA.
   - Continue to treat with unasyn to cover for aspiration/ coag + staph
   - F/u cultures
   .
   #Pancreatitis: Lipase continues to trend downward.  Possibly due to
   EtOH or Propofol with increased triglycerides.  Trending down now that
   Propofol is decreased and discontinued however unclear relationship.
   Abdomen somewhat firm but not tense.  Tolerating tube feeds.
   - continue to hold Propofol.
   - continue to trend lipase
   - Cont. tube feeds slowly
   .
   #ETOH Abuse
s partner endorses that pt. has been sober for years,
   and only recently
fell off the wagon.
  The extent of his withdrawal,
   however, suggests that his use of alcohol is potentially much more
   extensive.
   - Ranitidine for GI protection
   - Addiction consult + Social Work once awake
   - Monitor for ETOH withdrawal
   - psych needs to eval pt. once he is awake and clear
   .
   #Acute Renal Failure
 Resolved with IVF, likely pre-renal.
   - Monitor Creatinine
   - Avoid nephrotoxins/renally dose all meds
   .
   #Anemia - baseline HCT 40 according to recent records, borderline
   macrocytic therefore anemia likely [**12-26**] nutritional deficiency [**12-26**] ETOH
   abuse.  No evidence of bleeding.
   - continue to trend
   .
   #FEN
 advance tube feeds today slowly given recent pancreatitis,
   replete lytes prn, thiamine daily
   .
   # Access - PIVs, PICC (placed [**10-3**])
   .
   # PPX
 bowel regimen, heparin sc, ranitidine, VAP bundle
   .
   # Full Code
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2173-10-6**] 12:01 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2173-10-3**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-10-06 09:09:00 Physician Attending Progress Note
Chief Complaint: Ingestion
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with A-line D/C'd
   Patient with improved alertness and responsivness off sedation
   24 Hour Events:
 ARTERIAL LINE - STOP [**2173-10-6**] 04:19 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-6**] 02:15 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-10-6**] 12:30 AM
   Haloperidol (Haldol) - [**2173-10-6**] 03:16 AM
   Furosemide (Lasix) - [**2173-10-6**] 04:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2173-10-6**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 110 (68 - 115) bpm
   BP: 139/73(106) {125/62(74) - 140/78(106)} mmHg
   RR: 19 (5 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,495 mL
                                                                    876 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    443 mL
   IVF:
                                                                    696 mL
                                                                    233 mL
   Blood products:
   Total out:
                                                                  2,407 mL
                                                                  1,790 mL
   Urine:
                                                                  2,407 mL
                                                                  1,790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     88 mL
                                                                   -914 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 932 (689 - 1,240) mL
   PS : 5 cmH2O
   RR (Spontaneous): 8
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 12
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.36/74/90.[**Numeric Identifier 433**]/36/11
   Ve: 6.9 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
monophonic wheezes appreciated consistent
   with airway secretions
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   225 K/uL
   101 mg/dL
   1.0 mg/dL
   36 mEq/L
   4.0 mEq/L
   27 mg/dL
   102 mEq/L
   146 mEq/L
   26.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2173-10-3**]  04:54 PM
                            [**2173-10-4**]  12:39 AM
                            [**2173-10-4**]  04:07 AM
                            [**2173-10-4**]  09:36 AM
                            [**2173-10-5**]  12:40 AM
                            [**2173-10-5**]  03:56 AM
                            [**2173-10-5**]  04:11 AM
                            [**2173-10-5**]  05:08 PM
                            [**2173-10-6**]  03:47 AM
                            [**2173-10-6**]  07:59 AM
   WBC
   7.0
   6.1
   7.7
   Hct
   28.7
   25.8
   26.5
   26.2
   Plt
   [**Telephone/Fax (3) 2080**]
   Cr
   0.9
   0.9
   1.0
   1.0
   TCO2
   30
   33
   33
   35
   34
   44
   Glucose
   98
   103
   116
   101
   Other labs: PT / PTT / INR:12.7/29.3/1.1, ALT / AST:31/39, Alk Phos / T
   Bili:79/0.8, Amylase / Lipase:56/100, Lactic Acid:0.9 mmol/L, LDH:282
   IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: 7.36/74/90--ABG this morning
   Imaging: Head CT--no bleed, no midline shift
   Assessment and Plan
   55 yo male with admission with intoxication and sepsis now with
   persistent delirium and now with change in medications and minimization
   of benzodiazepine dosing patient has shown substantial improvement in
   mental status.  He has had haldol at 2.5mg q 6 hours and effective
   diuresis in past 24 hours.
   1)Respiratory Failure-
   -Move to extubation with favorable SBT this morning
   -A-line D/C'd
   -Will need close chest PT and suctioning post extubation to maintain
   airway patency
   -IN addition, patient has a respiratory acidosis on ABG which does
   appear to be compensated by his metabolic status with HCO3-=36.  This
   is likely a combination of central suppression with sedation and
   contraction alkalosis also contributing
   -Will continue with PSV at 5/5 for now and move to extubation
   -Patient will need continued support post extubation
   2)Altered Mental Status-
   -Haldol standing and PRN
   -Avoid benzodiazepines if at all possible
   -Will return to outpatient psychiatry medications following inpatient
   evaluation and use haldol
   -Will need sitter and 1:1 following extubation
   3)Pancreatitis-
   -Propofol off
   -po feeds to return with safe extubation
   -Enzymes decreasing
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPERTENSION, BENIGN
 .H/O ACIDOSIS, MIXED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2173-10-6**] 12:01 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2173-10-3**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2173-10-07 05:29:00 Physician Resident Progress Note
Chief Complaint: agitation, fever
   24 Hour Events:
          Self-extubated
     * psych consulted - patient not oriented, cannot [**Last Name (LF) **], [**First Name3 (LF) 116**] try again
       tomorrow
     * sw consulted
     * started POs
     * Haldol changed to TID
     * agitated overnight - given Haldol 2.5mg x2, zyprexa 5mg x1
     * 2limb restraints for agitation
 EKG - At [**2173-10-7**] 01:12 AM
 no QTc prolongation noted
     * Diruesis: -1.5L (met goal)
 FEVER - 101.2
F - [**2173-10-7**] 04:00 AM
 URINE CULTURE - At [**2173-10-7**] 04:53 AM
 BLOOD CULTURED - At [**2173-10-7**] 04:54 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-7**] 01:49 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-10-6**] 11:46 PM
   Lorazepam (Ativan) - [**2173-10-7**] 02:35 AM
   Haloperidol (Haldol) - [**2173-10-7**] 03:20 AM
   Morphine Sulfate - [**2173-10-7**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Intermittently complains of back pain
   Flowsheet Data as of  [**2173-10-7**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 118 (64 - 118) bpm
   BP: 174/109(123) {113/52(67) - 174/109(123)} mmHg
   RR: 22 (11 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,121 mL
                                                                    200 mL
   PO:
                                                                  1,000 mL
                                                                    100 mL
   TF:
                                                                    352 mL
   IVF:
                                                                    569 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,560 mL
                                                                    720 mL
   Urine:
                                                                  3,560 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,439 mL
                                                                   -520 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 932 (932 - 932) mL
   PS : 5 cmH2O
   RR (Spontaneous): 8
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: 7.42/57/89.[**Numeric Identifier 433**]/33/9
   Ve: 6.9 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General: awake, alert, answering questions, intermittently agitated
   HEENT: NC AT pupils equal and reactive, R eye w/subconjunctival
   hemorrhage
   CV: RRR, no appreciable murmur
   Lungs: good air movement bilaterally, b/l end expiratory wheezes
   Abdomen: slightly distended, BS+, no HSM, no tenderness to palpation
   Ext: wdi, DP's palpable bilaterally. R picc line w/some fresh blood
   under bandage. Moves all extremities spontaneously
   Neuro: AAO x1. 2+ patellar reflexes b/l.  [**3-29**] motor strength b/l.
   Labs / Radiology
   260 K/uL
   8.9 g/dL
   105 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.1 mEq/L
   20 mg/dL
   103 mEq/L
   144 mEq/L
   26.2 %
   8.5 K/uL
        [image002.jpg]
                            [**2173-10-4**]  09:36 AM
                            [**2173-10-5**]  12:40 AM
                            [**2173-10-5**]  03:56 AM
                            [**2173-10-5**]  04:11 AM
                            [**2173-10-5**]  05:08 PM
                            [**2173-10-6**]  03:47 AM
                            [**2173-10-6**]  07:59 AM
                            [**2173-10-6**]  04:18 PM
                            [**2173-10-6**]  09:06 PM
                            [**2173-10-7**]  02:36 AM
   WBC
   6.1
   7.7
   8.5
   Hct
   25.8
   26.5
   26.2
   26.2
   Plt
   [**Telephone/Fax (3) 2101**]
   Cr
   0.9
   1.0
   1.0
   0.9
   0.8
   TCO2
   33
   35
   34
   44
   38
   Glucose
   103
   116
   101
   159
   105
   Other labs:
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   UA w/hematuria.
   Assessment and Plan
   A/P: Mr. [**Known lastname 1901**] is a 55 yo M with PMH of alcholism, depression who
   presents with somnolence, bradycardia and hypotension after likely
   intoxication and ingestion as well as hypoxia [**12-26**] aspiration event.
   .
   # Hypertension/Tachycardia/Agitation:  possibly due to EtOH withdrawal,
   benzo withdrawal, other toxic ingestions, delirium from medical
   illness.  Benzodiazapines were d/c for concern of toxicity.  Currently
   being managed with standing and PRN Haldol and seems to be responsive
   to this. W/episodes last night of agitation + htn + tachycardia + fever
   that escalated w/haldol administration, possibility of NMS (patient
   also given zyprexa for agitation, and took seroquel outpt, both of
   which can cause NMS).  Also possible that Haldol dosing is inadequate
   and fever is incidental.  Likely AMS/delirium is multifactorial.
   Morphine worked well for agitation last night.
   - d/w psychiatry Haldol for sedation v other med
   - send CK
   - psych to see and re-[**Month/Day (2) **] when more oriented
   - consider other causes for AMS: consider checking ammonia, Hepatitis
   panel, RPR, HIV, HSV, possibly LP?
   #Fever: to 101.2 last night: pulmonary vs urine vs line vs sepsis vs
   NMS. UA w/hematuria but likely [**12-26**] to foley manipulation during
   agitation.
   -NMS studies as described
   -UCx, BCx sent last night
   -to repeat CXR
   .
   # Bilateral pulmonary infiltrates/hyppoxia - likely [**12-26**] aspiration
   pneumonitis vs aspiration PNA.  Mucous plug also possible although
   minimal secretions on suctioning.   Bronchoscopy benign for aspirated
   material, growing MSSA.
   - Continue to treat with unasyn to cover for aspiration/ coag + staph
   - Repeat CXR
   .
   #Pancreatitis: Lipase continues to trend downward.  Possibly due to
   EtOH or Propofol with increased triglycerides.  Trending down now that
   Propofol is decreased and discontinued however unclear relationship.
   Abdomen somewhat firm but not tense.  Tolerating tube feeds.
   - continue to trend lipase as patient tolerates POs
   .
   #ETOH Abuse
s partner endorses that pt. has been sober for years,
   and only recently
fell off the wagon.
  The extent of his withdrawal,
   however, suggests that his use of alcohol is potentially much more
   extensive.
   - Ranitidine for GI protection
   - Addiction consult + Social Work once awake
   - Monitor for ETOH withdrawal
   - psych needs to [**Month/Day (2) **] pt. once he is awake and clear
   ..
   #Anemia - baseline HCT 40 according to recent records, borderline
   macrocytic therefore anemia likely [**12-26**] nutritional deficiency [**12-26**] ETOH
   abuse.  No evidence of bleeding. Currently stable
   - continue to trend
   .
   #FEN
 Tolerating POs, replete lytes prn, thiamine daily
   .
   # Access
 R PICC (placed [**10-3**])
   .
   # PPX
 bowel regimen, heparin sc, ranitidine
   .
   # Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-10-3**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-10-07 09:32:00 Physician Attending Progress Note
Chief Complaint: Intoxication
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   -Patient extubated
   -Paroxysms of hypertension/agitation/fever across the night
   -Patient with improved capacity for clearance of secretions and able to
   maintain oxygenation with nasal cannula alone
   -Diuresis effected with 1.5 liter negative fluid balance
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2173-10-6**] 09:25 AM
 INVASIVE VENTILATION - STOP [**2173-10-6**] 09:25 AM
 EKG - At [**2173-10-7**] 01:12 AM
 URINE CULTURE - At [**2173-10-7**] 04:53 AM
 BLOOD CULTURED - At [**2173-10-7**] 04:54 AM
 FEVER - 101.2
F - [**2173-10-7**] 04:00 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-7**] 08:20 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2173-10-7**] 02:35 AM
   Haloperidol (Haldol) - [**2173-10-7**] 03:20 AM
   Morphine Sulfate - [**2173-10-7**] 04:15 AM
   Heparin Sodium (Prophylaxis) - [**2173-10-7**] 08:20 AM
   Ranitidine (Prophylaxis) - [**2173-10-7**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2173-10-7**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.9
C (98.5
   HR: 113 (64 - 118) bpm
   BP: 140/81(92) {113/52(67) - 174/109(123)} mmHg
   RR: 28 (13 - 28) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
             Total In:
                                                                  2,121 mL
                                                                    590 mL
   PO:
                                                                  1,000 mL
                                                                    390 mL
   TF:
                                                                    352 mL
   IVF:
                                                                    569 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,560 mL
                                                                  1,090 mL
   Urine:
                                                                  3,560 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,439 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 92%
   ABG: 7.42/57/89.[**Numeric Identifier 433**]/33/9
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   260 K/uL
   105 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.1 mEq/L
   20 mg/dL
   103 mEq/L
   144 mEq/L
   26.2 %
   8.5 K/uL
        [image002.jpg]
                            [**2173-10-4**]  09:36 AM
                            [**2173-10-5**]  12:40 AM
                            [**2173-10-5**]  03:56 AM
                            [**2173-10-5**]  04:11 AM
                            [**2173-10-5**]  05:08 PM
                            [**2173-10-6**]  03:47 AM
                            [**2173-10-6**]  07:59 AM
                            [**2173-10-6**]  04:18 PM
                            [**2173-10-6**]  09:06 PM
                            [**2173-10-7**]  02:36 AM
   WBC
   6.1
   7.7
   8.5
   Hct
   25.8
   26.5
   26.2
   26.2
   Plt
   [**Telephone/Fax (3) 2101**]
   Cr
   0.9
   1.0
   1.0
   0.9
   0.8
   TCO2
   33
   35
   34
   44
   38
   Glucose
   103
   116
   101
   159
   105
   Other labs: PT / PTT / INR:12.7/29.3/1.1, ALT / AST:31/39, Alk Phos / T
   Bili:79/0.8, Amylase / Lipase:56/91, Lactic Acid:0.9 mmol/L, LDH:282
   IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   55 yo male with polysubstance ingestion and respiratory failure now
   with extubation and improving mental status following decreased in
   benzo dosing.  Last night patient with signfiicant paroxysms of
   agitation, confusion, and intermittent fevers across the night--these
   do not appear to be triggered events and have been responsive primarily
   to time rather than specific intervention.
   1)Respiratory Failure-
   -OOB to chair
   -Wean O2 as possible
   -Controlling metabolic alkalosis with KCl
   -Continue with Unasyn Rx for possible pneumonia
   -Nebs PRN and standing
   2)Agitation--These episodes are characterized by confusion, agitation,
   hypertension, tachycardia and have been responsive to haldol dosing
   -Haldol 2.5mg tid and PRN has worked reasonably
   -Will need to track the episodes and if dominated by autonomic
   activation will have to re-consider benzodiazepine dosing
   -Would consider catechol studies if this hypertension dominates events
   -NMS, Serotonin Syndrome all must be considered but his episodes have
   been paroxysmal
   -Will check--RPR, B12, LFT's, Amonia
   -Will have Psychiatry in to evaluate patient for above possibilities
   and to consider therapeutic intervetions
   -Will Rx with clonidine for autonomic activation if that evolves as
   dominant pattern over time
   -Will utilize Haldol and move to PRN dosing if concern remains for
   paradoxical reaction over time but has been primary [**Doctor Last Name 23**]
   -Will utilize MSO4 PRN for pain
   3)Fever-
   -Cultures sent
   -Antibiotics continuing
   -Will Check CXR
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPERTENSION, BENIGN
 .H/O ACIDOSIS, MIXED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-10-3**] 10:00 AM
   Prophylaxis:
   DVT: Boots(OOB to chair)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor-if continued stability overnight, will
   need 1 :1 sitter
   Total time spent: 35 minutes

2173-10-08 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FALL - At [**2173-10-7**] 09:00 PM
   pt found on the floor next to the bed on all 4 fours, team reviwed,
   denied pain, more haldol given..put back to bed, pt neuro re-assessed,
   stable neuro exam...for sitter
 EKG - At [**2173-10-8**] 05:17 AM
   [**Known lastname 1901**]
   -F/u cultures
   -Talk with psych re: agitation.  NMS unlikely
   -got Haldol overnight per psych recs
   -Morphine d/c'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-7**] 08:04 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2173-10-7**] 08:34 AM
   Heparin Sodium (Prophylaxis) - [**2173-10-7**] 04:16 PM
   Haloperidol (Haldol) - [**2173-10-8**] 02:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-10-8**] 05:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.8
C (98.3
   HR: 80 (70 - 118) bpm
   BP: 149/81(97) {131/68(85) - 170/103(116)} mmHg
   RR: 24 (17 - 36) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,530 mL
                                                                    206 mL
   PO:
                                                                  1,010 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    520 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  2,019 mL
                                                                    300 mL
   Urine:
                                                                  2,019 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -489 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   General: awake, alert, answering questions, intermittently agitated
   HEENT: NC AT pupils equal and reactive, R eye w/subconjunctival
   hemorrhage
   CV: RRR, no appreciable murmur
   Lungs: good air movement bilaterally, b/l end expiratory wheezes
   Abdomen: slightly distended, BS+, no HSM, no tenderness to palpation
   Ext: wdi, DP's palpable bilaterally. R picc line w/some fresh blood
   under bandage. Moves all extremities spontaneously
   Neuro: AAO x1. 2+ patellar reflexes b/l.  [**3-29**] motor strength b/l.
   Labs / Radiology
   317 K/uL
   8.7 g/dL
   104 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.4 mEq/L
   18 mg/dL
   103 mEq/L
   141 mEq/L
   25.5 %
   6.4 K/uL
        [image002.jpg]
                            [**2173-10-5**]  12:40 AM
                            [**2173-10-5**]  03:56 AM
                            [**2173-10-5**]  04:11 AM
                            [**2173-10-5**]  05:08 PM
                            [**2173-10-6**]  03:47 AM
                            [**2173-10-6**]  07:59 AM
                            [**2173-10-6**]  04:18 PM
                            [**2173-10-6**]  09:06 PM
                            [**2173-10-7**]  02:36 AM
                            [**2173-10-8**]  03:04 AM
   WBC
   6.1
   7.7
   8.5
   6.4
   Hct
   25.8
   26.5
   26.2
   26.2
   25.5
   Plt
   [**Telephone/Fax (3) 2132**]17
   Cr
   0.9
   1.0
   1.0
   0.9
   0.8
   0.8
   TCO2
   35
   34
   44
   38
   Glucose
   103
   116
   101
   159
   105
   104
   Other labs: PT / PTT / INR:12.7/29.3/1.1, CK / CKMB / Troponin-T:984//,
   ALT / AST:31/39, Alk Phos / T Bili:79/0.8, Amylase / Lipase:56/91,
   Lactic Acid:0.9 mmol/L, LDH:282 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   A/P: Mr. [**Known lastname 1901**] is a 55 yo M with PMH of alcholism, depression who
   presents with somnolence, bradycardia and hypotension after likely
   intoxication and ingestion as well as hypoxia [**12-26**] aspiration event.
   .
   # Hypertension/Tachycardia/Agitation:  possibly due to EtOH withdrawal,
   benzo withdrawal, other toxic ingestions, delirium from medical
   illness.  Benzodiazapines were d/c for concern of toxicity.  Currently
   being managed with standing and PRN Haldol and seems to be responsive
   to this. W/episodes last night of agitation + htn + tachycardia + fever
   that escalated w/haldol administration, possibility of NMS (patient
   also given zyprexa for agitation, and took seroquel outpt, both of
   which can cause NMS).  Also possible that Haldol dosing is inadequate
   and fever is incidental.  Likely AMS/delirium is multifactorial.
   Morphine worked well for agitation last night.
   - d/w psychiatry Haldol for sedation v other med
   - send CK
   - psych to see and re-eval when more oriented
   - consider other causes for AMS: consider checking ammonia, Hepatitis
   panel, RPR, HIV, HSV, possibly LP?
   #Fever: to 101.2 last night: pulmonary vs urine vs line vs sepsis vs
   NMS. UA w/hematuria but likely [**12-26**] to foley manipulation during
   agitation.
   -NMS studies as described
   -UCx, BCx sent last night
   -to repeat CXR
   .
   # Bilateral pulmonary infiltrates/hyppoxia - likely [**12-26**] aspiration
   pneumonitis vs aspiration PNA.  Mucous plug also possible although
   minimal secretions on suctioning.   Bronchoscopy benign for aspirated
   material, growing MSSA.
   - Continue to treat with unasyn to cover for aspiration/ coag + staph
   - Repeat CXR
   .
   #Pancreatitis: Lipase continues to trend downward.  Possibly due to
   EtOH or Propofol with increased triglycerides.  Trending down now that
   Propofol is decreased and discontinued however unclear relationship.
   Abdomen somewhat firm but not tense.  Tolerating tube feeds.
   - continue to trend lipase as patient tolerates POs
   .
   #ETOH Abuse
s partner endorses that pt. has been sober for years,
   and only recently
fell off the wagon.
  The extent of his withdrawal,
   however, suggests that his use of alcohol is potentially much more
   extensive.
   - Ranitidine for GI protection
   - Addiction consult + Social Work once awake
   - Monitor for ETOH withdrawal
   - psych needs to eval pt. once he is awake and clear
   ..
   #Anemia - baseline HCT 40 according to recent records, borderline
   macrocytic therefore anemia likely [**12-26**] nutritional deficiency [**12-26**] ETOH
   abuse.  No evidence of bleeding. Currently stable
   - continue to trend
   .
   #FEN
 Tolerating POs, replete lytes prn, thiamine daily
   .
   # Access
 R PICC (placed [**10-3**])
   .
   # PPX
 bowel regimen, heparin sc, ranitidine
   .
   # Full Code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-10-3**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-10-08 08:57:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Intoxication
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FALL - At [**2173-10-7**] 09:00 PM
   pt found on the floor next to the bed on all 4 fours, team reviwed,
   denied pain, more haldol given..put back to bed, pt neuro re-assessed,
   stable neuro exam...for sitter
 EKG - At [**2173-10-8**] 05:17 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2173-10-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-10-8**] 12:00 AM
   Haloperidol (Haldol) - [**2173-10-8**] 05:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2173-10-8**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.3
   HR: 77 (70 - 111) bpm
   BP: 161/99(114) {131/68(85) - 170/103(116)} mmHg
   RR: 22 (17 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,530 mL
                                                                    538 mL
   PO:
                                                                  1,010 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    520 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                  2,019 mL
                                                                    300 mL
   Urine:
                                                                  2,019 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -489 mL
                                                                    238 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: Mild persistence of hemorrhage but edema has
   decreased
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   317 K/uL
   104 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.4 mEq/L
   18 mg/dL
   103 mEq/L
   141 mEq/L
   25.5 %
   6.4 K/uL
        [image002.jpg]
                            [**2173-10-5**]  12:40 AM
                            [**2173-10-5**]  03:56 AM
                            [**2173-10-5**]  04:11 AM
                            [**2173-10-5**]  05:08 PM
                            [**2173-10-6**]  03:47 AM
                            [**2173-10-6**]  07:59 AM
                            [**2173-10-6**]  04:18 PM
                            [**2173-10-6**]  09:06 PM
                            [**2173-10-7**]  02:36 AM
                            [**2173-10-8**]  03:04 AM
   WBC
   6.1
   7.7
   8.5
   6.4
   Hct
   25.8
   26.5
   26.2
   26.2
   25.5
   Plt
   [**Telephone/Fax (3) 2132**]17
   Cr
   0.9
   1.0
   1.0
   0.9
   0.8
   0.8
   TCO2
   35
   34
   44
   38
   Glucose
   103
   116
   101
   159
   105
   104
   Other labs: PT / PTT / INR:12.7/29.3/1.1, CK / CKMB / Troponin-T:984//,
   ALT / AST:31/39, Alk Phos / T Bili:79/0.8, Amylase / Lipase:56/91,
   Lactic Acid:0.9 mmol/L, LDH:282 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Imaging: CXR-CVL in good position on detailed review--persistent
   bilateral patchy infiltrates
   Assessment and Plan
   55 yo male with respiratory failure and now with successful extubation
   and with slow to resolve delirium now with psyhciatry evaluation and
   sitter in place to maintain safety.  He has continued to show slow but
   consistent improvement in mental status across time.
 DELIRIUM / CONFUSION--Appreciate psychiatry support-
   -Continue Haldol
   -Folate/Thiamine
   -RPR non-reactive
   -Continue to orient with sitter as primary intervention
   -restraints as needed
   -ECG with stable QTc
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)-
   -Has been successfully extubated and secretions are clearing in the
   setting of MSSA in sputum--this may represent most likely explanation
   -Zosyn to continue
 HYPERTENSION, BENIGN
 .H/O ACIDOSIS, MIXED
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])-
   -Trial on Room Air today
   -Continue with chest PT and suctioning as needed
   -Sub--Conjunctival Hemorrhage-
   -Optho eval completed
   -Bacitracin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2173-10-3**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes